US05256675
A mixture of 2-acetylamino-5-chloro-4-hydroxymethylthiazole (1 g), 4-mercaptopyridine (0.6 g) and potassium carbonate (1 g) in N,N-dimethylformamide (20 ml) was heated at 110° C. for 8 hours with stirring. The reaction mixture was poured into ice water and filtered by suction. The filtrate was extracted with a mixture of ethyl acetate and tetrahydrofuran (1:1) and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 75 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-acetylamino-4-hydroxymethyl-5-(4-pyridylthio)thiazole (0.90 g, yield: 64.3%). mp: 220°-222° C. (dec.)

reactant | 2-acetylamino-5-chloro-4-hydroxymethylthiazole | 1 g | C(C)(=O)NC=1SC(=C(N1)CO)Cl | C6H7ClN2O2S
reactant | 4-mercaptopyridine | 0.6 g | SC1=CC=NC=C1 | C5H5NS
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-4-hydroxymethyl-5-(4-pyridylthio)thiazole | 0.90 g, yield: 64.3% | C(C)(=O)NC=1SC(=C(N1)CO)SC1=CC=NC=C1 | C11H11N3O2S2
